US06824709B2
A mixture of 2-bromo-7-acetoxyfluorene (69 g), lithium hydroxide (9 g) and ethylene glycol (350 mL) was heated for one hour while refluxing. The reaction mixture was poured into 6M-hydrochloric acid (300 mL) to terminate the reaction, and the product was extracted with ethyl acetate (350 mL). The ethyl acetate layer was washed with a saturated sodium carbonate aqueous solution and dried on anhydrous magnesium sulfate. A residue obtained by distilling the solvent off under reduced pressure was recrystallized from chloroform to obtain 2-bromo-7-hydroxyfluorene (40 g) of colorless needle crystal. The melting point was 183-184° C.

reactant | 2-bromo-7-acetoxyfluorene | 69 g | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)OC(C)=O | C15H11BrO2
reactant | lithium hydroxide | 9 g | [OH-].[Li+]
reactant | hydrochloric acid | 300 mL | Cl | ClH
solvent | ethylene glycol | 350 mL | C(CO)O | C2H6O2
product | 2-bromo-7-hydroxyfluorene | 40 g | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)O | C13H9BrO
